US08293913B2
0.145 g of 3-(3-Fluoro-benzenesulfonyl)-8-(3aR,6aS)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl-quinoline hydrochloride were prepared by analogy to the methods of Examples 27 and 28 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with commercially available (3aR,6aS)-Hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester and subsequent deprotection of the tert-butyl-oxycarbonyl derivative with HCl in isoproanol.

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | (3aR,6aS)-Hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2CNC[C@@H]2C1 | C11H20N2O2
reactant | HCl | Cl | ClH
product | 3-(3-Fluoro-benzenesulfonyl)-8-(3aR,6aS)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl-quinoline hydrochloride | 0.145 g | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1C[C@@H]2CNC[C@@H]2C1 | InChI=1S/C21H20FN3O2S.ClH/c22-17-4-2-5-18(8-17)28(26,27)19-7-14-3-1-6-20(21(14)24-11-19)25-12-15-9-23-10-16(15)13-25;/h1-8,11,15-16,23H,9-10,12-13H2;1H/t15-,16+;
